US07432284B2
A solution of 2-allyl-2-ethyl-6-methoxy-3,4-dihydro-1(2H)-naphthalenone (931 mg, 3.82 mmol) in acetonitrile (11 mL) was treated with benzoquinone (619 mg, 5.73 mmol), palladium(II) acetate (172 mg, 0.76 mmol), water (0.56 mL, 31 mmol), and perchloric acid (70%, 0.15 mL, 1.74 mmol). The resulting mixture was stirred overnight at room temperature, then filtered through a small plug of silica gel. The filtrate was diluted with CH2Cl2, washed with water, and the aqueous phase was back-extracted with CH2Cl2. The combined organics were washed with brine, dried over MgSO4, filtered, and concentrated under vacuum to afford crude 2-ethyl-6-methoxy-2-(2-oxopropyl)-3,4-dihydro-1(2H)-naphthalenone as an orange oil.

reactant | 2-allyl-2-ethyl-6-methoxy-3,4-dihydro-1(2H)-naphthalenone | 3.82 mmol, 931 mg | C(C=C)C1(C(C2=CC=C(C=C2CC1)OC)=O)CC | C16H20O2
reactant | benzoquinone | 5.73 mmol, 619 mg | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | water | 31 mmol, 0.56 mL | O | H2O
reactant | perchloric acid | 1.74 mmol, 0.15 mL | Cl(=O)(=O)(=O)O | ClHO4
solvent | acetonitrile | 11 mL | C(C)#N | C2H3N
catalyst | palladium(II) acetate | 0.76 mmol, 172 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-ethyl-6-methoxy-2-(2-oxopropyl)-3,4-dihydro-1(2H)-naphthalenone | C(C)C1(C(C2=CC=C(C=C2CC1)OC)=O)CC(C)=O | C16H20O3
